US08022206B2
7-{(1S)-1-[6-(1-methyl-1H-pyrazol-4-yl) [1,2,4]triazolo[4,3-b]pyridazin-3-yl]ethoxy}-3-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[3,2-c]pyridin-6-amine
A suspension of 7-[(S)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine (0.289 mmol, 1 eq), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.507 mmol, 2.7 eq), Pd(PPh3)4 (66.8 mg, 0.0578 mmol, 20 mol %), and K2CO3 (200 mg, 1.45 mmol, 5.0 eq) in a 4:1 ratio of dioxane (4 mL) to H2O (1 mL) was evacuated and charged with nitrogen several times. The reaction sample was then heated in a microwave reactor at 100° C. for 0.5 h. CH2Cl2 and H2O were added and a standard aqueous workup was performed. The crude material was purified by chromatography on an SCX column and HPLC giving the title compound as a diformate salt. 1H NMR (400 MHz, CD3OD): δ=2.15 (d, J=6.8 Hz, 3H), 2.25-2.40 (m, 4H), 3.18-3.28 (ddd, J=12.9, 11.6, 3.8 Hz, 2H), 3.59 (dt, J=13.3, 3.3 Hz, 2H), 3.85 (s, 3H), 4.60 (dddd, J=10.0, 4.9, 4.8 Hz, 1H), 6.34 (q, J=6.6 Hz, 1H), 7.62 (d, J=9.6 Hz, 1H), 7.81 (s, 1H), 7.84 (s, 2H), 8.03 (s, 1H), 8.04 (s, 1H), 8.08 (s, 1H), 8.13 (d, J=9.6 Hz, 1H), 8.34 (br s, 4H). MS (ES+): m/z 526.17 (20) [MH+]. HPLC: tR=1.94 min (ZQ3, polar—5 min).

reactant | 7-[(S)-1-(6-Chloro[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethoxy]-3-(1-piperidin-4-yl-1H-pyrazol-4-yl)furo[3,2-c]pyridin-6-ylamine | 0.289 mmol, 1 eq | ClC=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C(=CO1)C=1C=NN(C1)C1CCNCC1 | C22H22ClN9O2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.507 mmol, 2.7 eq | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | K2CO3 | 1.45 mmol, 200 mg, 5.0 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0578 mmol, 66.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 1 mL | O | H2O
product | 7-{(1S)-1-[6-(1-methyl-1H-pyrazol-4-yl) [1,2,4]triazolo[4,3-b]pyridazin-3-yl]ethoxy}-3-[1-(piperidin-4-yl)-1H-pyrazol-4-yl]furo[3,2-c]pyridin-6-amine | CN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)[C@H](C)OC=2C1=C(C=NC2N)C(=CO1)C=1C=NN(C1)C1CCNCC1 | C26H27N11O2
